US05576324
5-Acetoxy-6-[1-(tert-butyldimethylsilyloxy)methyl-2,3epoxypropyl]-8-methylcarbostyril:
5-Acetoxy-6-[1-(tert-butyldimethylsilyloxy)methyl-2propenyl]-8-methylcarbostyril (6.00 g, 15.0 mmol) was dissolved in chloroform (100 ml), to which m-perbenzoic acid (13.0 g, 52.7 mmol) was added. The mixture was stirred for hours. Saturated aqueous sodium sulfite solution was added to the reaction mixture, followed by stirring for 90 minutes. The organic phase was washed with saturated NaCl solution, dried over sodium sulfate and condensed under reduced pressure. The resultant residue was recrystallized from chloroform--n-hexane. As a result, 6.10 g of the title compound (mixtures of diastereomers, 3:1) was obtained as colorless powdery crystals (97.8%).

reactant | 5-Acetoxy-6-[1-(tert-butyldimethylsilyloxy)methyl-2propenyl]-8-methylcarbostyril | 15.0 mmol, 6.00 g | C(C)(=O)OC1=C2C=CC(NC2=C(C=C1C(C=C)CO[Si](C)(C)C(C)(C)C)C)=O | C22H31NO4Si
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-Acetoxy-6-[1-(tert-butyldimethylsilyloxy)methyl-2,3epoxypropyl]-8-methylcarbostyril | 6.10 g | C(C)(=O)OC1=C2C=CC(NC2=C(C=C1C(C1CO1)CO[Si](C)(C)C(C)(C)C)C)=O | C22H31NO5Si
